US09303014B2
In yet another embodiment, provided herein is a method for preparing 3-(5-amino-2-methyl-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione, or an enantiomer or a mixture of enantiomers thereof or a pharmaceutically acceptable salt, solvate, hydrate, or polymorph thereof; comprising the steps of (a) reacting 2-amino-6-nitrobenzoic acid with an activated acetic acid in a solvent to form 2-methyl-5-nitro-4H-benzo[d][1,3]oxazin-4-one; (b) reacting 2-methyl-5-nitro-4H-benzo[d][1,3]oxazin-4-one with 3-aminopiperidine-2,6-dione or a salt thereof in a solvent to form 3-(2-methyl-5-nitro-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione; and (c) reducing 3-(2-methyl-5-nitro-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione in a solvent to form 3-(5-amino-2-methyl-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione, or an enantiomer or a mixture of enantiomers thereof or a pharmaceutically acceptable salt, solvate, hydrate, or polymorph thereof.

reactant | 3-(5-amino-2-methyl-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione | NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C14H14N4O3
reactant | 2-amino-6-nitrobenzoic acid | NC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H6N2O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methyl-5-nitro-4H-benzo[d][1,3]oxazin-4-one | CC=1OC(C2=C(N1)C=CC=C2[N+](=O)[O-])=O | C9H6N2O4
